US04192803
7-Chloro-11-(4-methyl-1-piperazinyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 15 ml. of dry toluene, 1.5 ml. of anisole and 0.8 ml. of titanium tetrachloride is cooled under argon. A solution of 2.8 ml. of N-methylpiperazine in 10 ml. of toluene is added. A 1.55 g. portion of 7-chloro-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one and 1.4 ml. of N-methylpiperazine are added in succession. The reaction mixture is heated at reflux for 5 hours, cooled to 60° C. and 2.2 ml. of isopropanol, 2 ml. of concentrated ammonium hydroxide and 1 g. of celite are added. After cooling to 30° C., 20 ml. of toluene are added and the mixture is filtered and washed with toluene. The toluene layer is washed twice with water, concentrated to remove the solvent and cooled. The solid is washed onto a filter with hexane, treated with 10 ml. of 1 N acetic acid and the insoluble material is collected and washed with water. The aqueous layer is treated with 10 ml. of 1 N ammonium hydroxide. The precipitate is collected, washed with water, dried in vacuo and recrystallized from ethanol, giving the desired product, m.p. 186°-188° C.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 7-chloro-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC=C3)C1 | C12H9ClN2O
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-Chloro-11-(4-methyl-1-piperazinyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)C)=CC=C3)C1 | C17H19ClN4
